US07598384B2
2-Isobutoxy-7-phenyl-7,8-dihydro-6H-quinolin-5-one
In analogy to the procedure described in Example 8, 2-chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one was treated with iso-butyl alcohol to give the title compound in 35% yield.

reactant | 2-chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one | ClC1=NC=2CC(CC(C2C=C1)=O)(C)C | C11H12ClNO
reactant | iso-butyl alcohol | C(C(C)C)O | C4H10O
product | 2-Isobutoxy-7-phenyl-7,8-dihydro-6H-quinolin-5-one | 35% yield | C(C(C)C)OC1=NC=2CC(CC(C2C=C1)=O)C1=CC=CC=C1 | C19H21NO2
